US07625985B1
Preparation of Poly(4-VP+-b-PS-b-4-VP+) Triblock Copolymer Latex
50.0 g of 20 percent poly(4-vinylpyridine) methanol solution from Ex. 1 (˜10.0 g of polymer) was placed in a 500 ml single neck flask and stripped of solvent on a rotary evaporator. To the dried polymer was then added 110 g of RO water and 10.0 g of con. hydrochloric acid. The mixture was stirred until a uniform pale yellow aqueous solution was obtained. This solution was then charged into a 500 ml three-necked round bottom flask equipped with a mechanical paddle stirrer, a nitrogen inlet, a pot thermometer, heating mantle and condenser. 0.6 g of potassium persulfate was then added followed by 30.0 g (˜0.288 moles) of styrene. The biphasic stirred mixture was then rapidly heated to 65° C. under nitrogen for 8 hrs. The final latex solids were determined to be 26.7 percent (theory 27.1 percent) or 98.5 percent conversion. A small portion of the final latex was coagulated in dilute potassium hydroxide solution for analysis. NMR indicated a composition of 25.8 percent poly(4-VP) and 74.2 percent polystyrene (theory 25 percent poly(4-VP) and 75 percent PS). Latex particle size was ˜182 nm.

reactant | potassium persulfate | 0.6 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | styrene | ˜0.288 moles, 30.0 g | C=CC1=CC=CC=C1 | C8H8
solvent | potassium hydroxide | [OH-].[K+]
product | 4-VP | C=CC1=CC=C(C=C1)O | C8H8O
